US06723722B1
4-Chloro-2-(1-hydroxy-1-methylethyl)pyridine
A 1.5 M solution of methyllithium in diethyl ether (6.0 ml) dissolved in diethyl ether (15 ml) was treated dropwise with a solution of 4-chloropyridine-2-carboxylic acid in diethyl ether (15 ml) under an argon atmosphere, and stirred at room temperature for 2 hours. The reaction mixture was diluted with a saturated solution of ammonium chloride and diethyl ether, and the organic phase was washed with brine, dried and concentrated. The resultant residue was purified by a column chromatography on a silica gel (ethyl acetate:methanol=20:1) to obtain the title compound (459 mg) as a tan oil.

reactant | methyllithium | C[Li]
reactant | 4-chloropyridine-2-carboxylic acid | ClC1=CC(=NC=C1)C(=O)O | C6H4ClNO2
reactant | diethyl ether | 6.0 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 15 ml | C(C)OCC | C4H10O
reactant | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 4-Chloro-2-(1-hydroxy-1-methylethyl)pyridine | 459 mg | ClC1=CC(=NC=C1)C(C)(C)O | C8H10ClNO
